US08026257B2
tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(dimethylamino)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (40.0 mg, 0.063 mmol)and DIMETHYLAMINE (0.040 mL, 0.316 mmol) in Acetonitrile (1.5 mL) at 0° C. was added SODIUM CYANOBOROHYDRIDE (3.98 mg, 0.063 mmol). To this was added 1 drop of HOAc, and a second drop of HOAc after 5 min. The reaction was then stirred at R.T. for another hour. LC/MS showed reaction complete. It was concentrated, diluted with ether and washed with 0.5M NaOH, then loaded onto an SCX cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded, and eluted with 2M NH3 in MeOH, the solvent was concentrated to give the title product (27 mg, 0.041 mmol, 64.5% yield). 1H-NMR (CDCl3, 500 MHz) δ 7.99 (s, 1H),), 7.48 (d, J=1.83 Hz, 1H), 7.29 (m, 2H), 7.03 (m, 2H), 6.61 (d, J=19.8 Hz, 1H), 5.64 (m, 2H), 5.05 (m, 1H), 3.63 (m, 2H), 3.60 (t, c), 3.4 (m, 1H), 3.31 (m, 1H), 3.04 (m, 2H), 2.9 (m, 1H), 2.7 (m, 1H), 2.6 (m,2H), 2.25 (d, J=2.44 Hz, 6H), 2.2 (m, 1H), 2.05 (m, 1H), 1.9 (m, 1H), 1.8 (m, 1H), 1.43 (s, 9H), 0.9 (t, J=8.55 Hz, 2H), 0.06 (s, 9H). LC/MS (HPLC method 3): tR=3.53 min, 661.5(MH)+.

reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.063 mmol, 40.0 mg | ClC1=CC2=CN(N=C2C(=C1)C(C=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H43ClFN3O5Si
reactant | DIMETHYLAMINE | 0.316 mmol, 0.040 mL | CNC | C2H7N
reactant | SODIUM CYANOBOROHYDRIDE | 0.063 mmol, 3.98 mg | C(#N)[BH3-].[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | Acetonitrile | 1.5 mL | C(C)#N | C2H3N
catalyst | HOAc | 1 drop | CC(=O)O | C2H4O2
product | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(dimethylamino)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.041 mmol, 27 mg, 64.5% yield | ClC1=CC2=CN(N=C2C(=C1)C(CN(C)C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C34H50ClFN4O4Si
